US07320972B2
This reaction was performed using a PersonalChemistry™ microwave instrument set at normal absorbance, fixed hold time and 30 sec pre-stirring. A 10-mL reaction vial was charged with 3-chlorophenyl trifluoromethanesulfonate (0.60 g, 2.30 mmol), dimethyl phosphite (0.42 mL, 4.58 mmol) and triethylamine (0.64 mL, 4.59 mmol) in toluene (4 mL). Nitrogen was bubbled through the stirred solution for 5 min, the tetrakis(triphenylphosphine)palladium(0) (0.1 g) was added, the solution was covered with a blanket of nitrogen and sealed. The reaction mixture was heated 11 min at 160° C., then cooled to room temperature and diluted with ethyl acetate. The yellow solution washed successively with water (3×) and brine. The organic solution was dried over sodium sulfate, filtered and the solvent was removed by rotary evaporation under reduced pressure. Pure dimethyl (3-chlorophenyl)phosphonate was obtained as a colorless oil (0.27 g, 57%) by chromatography over silica gel using ethyl acetate-hexane (gradient: 5% ethyl acetate to 100%). 1H NMR (300 MHz, CDCl3) δ 7.77 (br d, J=13.7 Hz, 1H), 7.68 (ddt, J=13.0, 7.5, 1.4 Hz, 1H), 7.53 (dquint., J=8.0, 1.1 Hz, 1H), 7.38-7.45 (m, 1H), 3.79 (s, 3H), 3.75 (s, 3H) ppm; MS [M+H]+ 221, [2M+H]+ 441

reactant | 3-chlorophenyl trifluoromethanesulfonate | 2.30 mmol, 0.60 g | FC(S(=O)(=O)OC1=CC(=CC=C1)Cl)(F)F | C7H4ClF3O3S
reactant | dimethyl phosphite | 4.58 mmol, 0.42 mL | P(OC)(OC)[O-]
reactant | triethylamine | 4.59 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | dimethyl (3-chlorophenyl)phosphonate | ClC=1C=C(C=CC1)P(OC)(OC)=O | C8H10ClO3P
